US04876381
Preparation of 2-(4'-ethoxycarbonyl-β-methyl-styryl)naphthalene
31 g of diethyl 4-ethoxycarbonyl-benzylphosphonate and a few drops of 1,4,7,10,13-pentaoxa-cyclopentadecane are added to a suspension of 5.5 g of sodium hydride in 100 cm3 of tetrahydrofuran. The mixture is stirred at 45° C. for one hour and 17 g of 2-acetyl-naphthalene are then added. It is kept at 45° C. for three hours, allowed to cool, then diluted with dichloroethane. The insoluble matter is filtered off and the filtrate is evaporated under reduced pressure. The residue is recrystallised twice from ethanol. 14 g of the expected product are obtained. Melting point: 96° C.

reactant | diethyl 4-ethoxycarbonyl-benzylphosphonate | 31 g | C(C)OC(=O)C1=CC=C(CP(OCC)(OCC)=O)C=C1 | C14H21O5P
reactant | sodium hydride | 5.5 g | [H-].[Na+]
reactant | 2-acetyl-naphthalene | 17 g | C(C)(=O)C1=CC2=CC=CC=C2C=C1 | C12H10O
reactant | tetrahydrofuran | 100 cm3 | O1CCCC1 | C4H8O
catalyst | 1,4,7,10,13-pentaoxa-cyclopentadecane | a few drops | O1CCOCCOCCOCCOCC1 | C10H20O5
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 2-(4'-ethoxycarbonyl-β-methyl-styryl)naphthalene | 14 g | C(C)OC(=O)C1=CC=C(C(=CC2=CC3=CC=CC=C3C=C2)C)C=C1 | C22H20O2
